US05861417
Combine phenylacetonitrile (40 mmol), and aqueous sodium hydroxide solution (60 mL, 50% by weight). Add N,N-bis(2-chloroethyl)benzylamine hydrochloric acid salt (11.28 g, 42 mmol) and hexadecyltriethyl phosphonium bromide (1.02 g, 2 mmol). Heat to 100° C and stir vigorously. After 1 hour, cool the reaction mixture to ambient temperature. Add water and acidify the diluted reaction mixture with an aqueous 6M hydrochloric acid solution. Extract the acidified reaction mixture with diethyl ether. Adjust the pH of the aqueous layer to about 12 using solid potassium hydroxide and extract with ethyl acetate. Separate the ethyl acetate layer, dry over MgSO4, filter, and evaporate invacuo to give a residue. Combine the residue and a solution of hydrochloric acid in methanol. Evaporate in vacuo to give 1-benzyl-4-phenyl-4-cyanopiperidine hydrochloric acid salt.

reactant | phenylacetonitrile | 40 mmol | C1(=CC=CC=C1)CC#N | C8H7N
reactant | sodium hydroxide | 60 mL | [OH-].[Na+]
reactant | N,N-bis(2-chloroethyl)benzylamine hydrochloric acid salt | 42 mmol, 11.28 g | Cl.ClCCN(CCCl)CC1=CC=CC=C1
reactant | hexadecyltriethyl phosphonium bromide | 2 mmol, 1.02 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](CC)(CC)CC
reactant | hydrochloric acid | 6M | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-benzyl-4-phenyl-4-cyanopiperidine hydrochloric acid salt | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C#N)C1=CC=CC=C1 | InChI=1S/C19H20N2.ClH/c20-16-19(18-9-5-2-6-10-18)11-13-21(14-12-19)15-17-7-3-1-4-8-17;/h1-10H,11-15H2;1H
